US07576218B2
1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-N-hydroxy-piperidine-4-carboxamidine
In a 4 mL vial was added 50 mg of 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carbonitrile (0.1 mmol, 1.00 eq), 24 mg hydroxylamine hydrochloride (0.33 mmol, 3.00 eq), 94uL TEA (0.66 mmol, 6.00 eq), and 500uL ethanol. The mixture was heated to 55C overnight and the solvent removed in vacuo. The crude material was used “as is” in the following step:

reactant | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-piperidine-4-carbonitrile | 0.1 mmol, 50 mg, 1.00 eq | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C#N)C1=CC=C(C=C1)Cl)C(F)(F)F | C19H17Cl2F3N4O
reactant | hydroxylamine hydrochloride | 0.33 mmol, 24 mg, 3.00 eq | Cl.NO
solvent | ethanol | 500uL | C(C)O | C2H6O
product | 1-[2-(4-chloro-5-methyl-3-trifluoromethyl-pyrazol-1-yl)-acetyl]-4-(4-chloro-phenyl)-N-hydroxy-piperidine-4-carboxamidine | ClC=1C(=NN(C1C)CC(=O)N1CCC(CC1)(C(=N)NO)C1=CC=C(C=C1)Cl)C(F)(F)F | C19H20Cl2F3N5O2
